US06153768
Synthesis of 4-(4-hydroxyphenyl)-4-hydroxy-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-2,3-dihydro-4H-benzopyran
Under nitrogen atmosphere, 3-bromomagnesium phenyl trimethylsilyl ether prepared from 3-bromophenyl trimethylsilyl ether (2.35 g, 9.57 mmol) and magnesium turning (0.23 g, 9.57 mmol) in dry tetrahydrofuran (3 ml) was cooled to -78° C. 7-Methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-2,3-dihydro-4H-benzopyran-4-one (1 g, 2.9 mmol) dissolved in dry tetrahydrofuran (2 ml) was slowly added dropwise thereto, and the mixture was stirred for one hour. The reaction solution was quenched with saturated aqueous ammonium chloride solution and then extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to remove the organic solvent. The concentrate was then subjected to column chromatography (n-hexane:ethyl acteate=4:1) to obtain 903 mg (yield: 74%) of the title compound as a foam.

reactant | 3-bromophenyl trimethylsilyl ether | 9.57 mmol, 2.35 g | C[Si](C)(C)OC1=CC(=CC=C1)Br | C9H13BrOSi
reactant | magnesium | 9.57 mmol, 0.23 g | [Mg] | Mg
reactant | 7-Methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-2,3-dihydro-4H-benzopyran-4-one | 2.9 mmol, 1 g | COCOC1=CC2=C(C(C(CO2)C2=CC=C(C=C2)OCOC)=O)C=C1 | C19H20O6
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 4-(4-hydroxyphenyl)-4-hydroxy-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-2,3-dihydro-4H-benzopyran | 903 mg, yield: 74% | OC1=CC=C(C=C1)C1(C(COC2=C1C=CC(=C2)OCOC)C2=CC=C(C=C2)OCOC)O | C25H26O7
